US03979390
A mixture of γ-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-2,4-difluorobutyrophenone hydrochloride (4.0 g) and benzylamine (50 ml) was stirred at room temperature for about 30 hours. The mixture was poured into water and extracted with ethyl acetate. The extract was sufficiently washed with water and concentrated under reduced pressure. Triturating the residue with a mixture of ether and n-hexane, there was obtained γ-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-2-benzylamino-4-fluorobutyrophenone. M.P. 113° - 117°C. IR νmaxNujol 3350, 3300, 1639, 1600 cm-1.

reactant | γ-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-2,4-difluorobutyrophenone hydrochloride | 4.0 g | Cl.ClC1=CC=C(C=C1)C1(CCN(CC1)C(CC(C(=O)C1=CC=CC=C1)F)F)O
reactant | benzylamine | 50 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | water | O | H2O
product | γ-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-2-benzylamino-4-fluorobutyrophenone | ClC1=CC=C(C=C1)C1(CCN(CC1)C(CC(C(=O)C1=CC=CC=C1)NCC1=CC=CC=C1)F)O | C28H30ClFN2O2
